US04387106
A solution of 1.46 g. of phenyl N-(3-bromophenyl)carbamate in 15 ml. of tetrahydrofuran is added to a solution of 2.32 g. of dibenzylamine in 20 ml. of tetrahydrofuran and the mixture is stirred under reflux for 24 hours. The mixture is diluted with hexane and the precipitate collected by filtration. Recrystallization from pentane affords 1,1-di-benzyl-3-(3-bromophenyl)urea, m.p. 102°-103° C.

reactant | phenyl N-(3-bromophenyl)carbamate | BrC=1C=C(C=CC1)NC(OC1=CC=CC=C1)=O | C13H10BrNO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | hexane | CCCCCC | C6H14
product | 1,1-di-benzyl-3-(3-bromophenyl)urea | C(C1=CC=CC=C1)N(C(=O)NC1=CC(=CC=C1)Br)CC1=CC=CC=C1 | C21H19BrN2O
